US07943748B2
(2) Synthesis of 2-(4-Bromonaphthalen-2-ylmethyl)benzo-[b]thiophene
In a nitrogen stream, triethylsilane (0.48 ml, 3.01 mmol) and a boron trifluoride-diethyl ether complex (0.34 ml, 2.71 mmol) were added dropwise to a solution of (benzo[b]-thiophen-2-yl)-(4-bromonaphthalen-2-yl)methanol (1.0 g, 2.71 mmol) in methylene chloride (30 mL) at 0° C. The reaction mixture was stirred at room temperature for three hours, and then a 50% methanol aqueous solution (1 ml) was added and further water was added thereto and the mixture was extracted with methylene chloride. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:40)] to obtain the title compound (0.82 g, 85.6%).

reactant | triethylsilane | 3.01 mmol, 0.48 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | (benzo[b]-thiophen-2-yl)-(4-bromonaphthalen-2-yl)methanol | 2.71 mmol, 1.0 g | S1C2=C(C=C1C(O)C1=CC3=CC=CC=C3C(=C1)Br)C=CC=C2 | C19H13BrOS
reactant | methanol | 1 ml | CO | CH4O
reactant | water | O | H2O
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Bromonaphthalen-2-ylmethyl)benzo-[b]thiophene | 0.82 g, 85.6% | BrC1=CC(=CC2=CC=CC=C12)CC1=CC2=C(S1)C=CC=C2 | C19H13BrS
